US04082843
Methyl 3-(3-acetoxy-2-methoxybenzoyl)propionate was warmed on a steam bath with dilute sodium hydroxide solution, and the resultant solution was acidified with hydrochloric acid to give 3-(3-hydroxy-2-methoxybenzoyl)propionic acid.

reactant | Methyl 3-(3-acetoxy-2-methoxybenzoyl)propionate | C(C)(=O)OC=1C(=C(C(=O)CCC(=O)OC)C=CC1)OC | C14H16O6
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
product | 3-(3-hydroxy-2-methoxybenzoyl)propionic acid | OC=1C(=C(C(=O)CCC(=O)O)C=CC1)OC | C11H12O5
